US07247645B2
2) Synthesis of 2-cyanoethyl 3-[2-(4-benzyl-[1,4]-diazepane-1-carbonyl)-3-oxobutenyl]benzoate:
1.12 g (5.00 mmol) of 3-(2-cyanoethoxycarbonyl)benzaldehyde, 1.38 g (5.03 mmol) of 1-(4-benzyl[1,4]-diazepane-1-yl)butane-1,3-dion and 0.05 ml (0.51 mmol) of piperidine were stirred in 50 ml of benzene at 105° C. overnight. Ethyl acetate was added to the reaction mixture. After drying over anhydrous sodium sulfate, the product was concentrated under reduced pressure to obtain the title compound.

reactant | 3-(2-cyanoethoxycarbonyl)benzaldehyde | 5.00 mmol, 1.12 g | C(#N)CCOC(=O)C=1C=C(C=O)C=CC1 | C11H9NO3
reactant | 1-(4-benzyl[1,4]-diazepane-1-yl)butane-1,3-dion | 5.03 mmol, 1.38 g | C(C1=CC=CC=C1)N1CCN(CCC1)C(CC(C)=O)=O | C16H22N2O2
reactant | piperidine | 0.51 mmol, 0.05 ml | N1CCCCC1 | C5H11N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-cyanoethyl 3-[2-(4-benzyl-[1,4]-diazepane-1-carbonyl)-3-oxobutenyl]benzoate | quantitative yield | C(C1=CC=CC=C1)N1CCN(CCC1)C(=O)C(=CC=1C=C(C(=O)OCCC#N)C=CC1)C(C)=O | C27H29N3O4
